* source RECORTADOR
D_D1         0 N00195 D1N4002 
D_D2         N00186 N00199 D1N4002 
V_V1         N00199 0 6V
R_R1         N00167 N00186  2k TC=0,0 
V_V3         N00167 0  
+SIN 0 15 1k 0 0 0
V_V4         N00195 N00186 9V
