* source RECTIFICADOR1
D_D1         N00144 N00148 D1N4002 
V_V1         N00144 0  
+SIN 0 10V 50Hz 0 0 0
R_R1         N00148 0  100 TC=0,0 
C_C1         N00148 0  1000uF  TC=0,0 
