* source REGULADOR
V_V1         N00124 0  
+SIN 14 1 1k 0 0 0
R_R1         N00124 N00128  100 TC=0,0 
D_D1         0 N00128 D1N750 
R_R2         N00128 0  75 TC=0,0 
