* source PRACTICA6
V_Vgs         N01276 0 0Vdc
V_Vds         N01492 0 -10V
M_M1         N01492 N01276 0 0 Mbreakp  
+ L=2u  
+ W=160u         
J_J1         N01944 N01770 0 Jbreakn 
V_Vgs1         N01770 0 0Vdc
V_Vds1         N01944 0 0Vdc
