* source PRACTICA6_3
M_M1         N00150 N00143 0 0 Mbreakn  
+ L=10u  
+ W=400u         
R_Rd         N00154 N00150  1k TC=0,0 
V_Vcc         N00154 0 15V
V_Vin         N00143 0  
+SIN 7.5 7.5 1k 0 0 0
